US09120749B2
tert-butyl 1-(5-aminopyridin-2-yl)pyrrolidin-3-ylcarbamate
Following General procedure H, 2-chloro-5-nitropyridine (500 mg, 3.1 mmol) was reacted with tert-butyl pyrrolidin-3-ylcarbamate (931 mg, 5 mmol) followed by reduction to afford the desired product (813 mg, 94%) as a purple solid: ESI MS m/z 279 [C14H22N4O2+H]+.

reactant | 2-chloro-5-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl pyrrolidin-3-ylcarbamate | 5 mmol, 931 mg | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
product | tert-butyl 1-(5-aminopyridin-2-yl)pyrrolidin-3-ylcarbamate | 813 mg, 94% | NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C14H22N4O2
